US07205291B2
To a solution of allyl (5R,6S)-3-[3-({[(methylamino)carbonyl]oxy}methyl)phenyl]-7-oxo-6-{(1R)-1-[(triethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (284 mg) in THF (4 ml) was added a solution of anhydrous trifluoromethanesulfonic acid (0.6 ml) in water (2 ml) at 0° C., and the solution was stirred for 25 minutes. Thereto was added a cold aqueous saturated sodium hydrogencarbonate solution and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (chloroform/methanol) to give allyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-[3-({[(methylamino)carbonyl]oxy}methyl)phenyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (139 mg).

reactant | allyl (5R,6S)-3-[3-({[(methylamino)carbonyl]oxy}methyl)phenyl]-7-oxo-6-{(1R)-1-[(triethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 284 mg | CNC(=O)OCC=1C=C(C=CC1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](CC)(CC)CC)=O)C(=O)OCC=C | C27H38N2O6Si
reactant | trifluoromethanesulfonic acid | 0.6 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | allyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-[3-({[(methylamino)carbonyl]oxy}methyl)phenyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 139 mg | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC=C)C1=CC(=CC=C1)COC(=O)NC | C21H24N2O6
